US05591862
A mixture of (E)-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2-propen-1-ol (3.1 g), palladium-carbon (5%, 0.5 g) and ethyl acetate (50 ml) was subjected to catalytic hydrogenation under 1 atmospheric pressure at room temperature. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to yield 3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propan-1-ol (2.8 g, 90%), which was recrystallized from ethyl acetate--hexane to give colorless needles, m.p.99°-100° C.

reactant | (E)-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2-propen-1-ol | 3.1 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)/C=C/CO | C21H21NO3
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propan-1-ol | 2.8 g, 90% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCCO | C21H23NO3
